Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
oxycodone
 
Attending: ___.
 
Chief Complaint:
L groin cellulitis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w/ CML (in remission on long-term Gleevac) admitted for L 
groin cellulitis and abscess. 

Symptoms began about two weeks ago with a pimple-like lesion, 
which progressed to an abscess with surrounding erythema. She 
was initially managed with I&D of the abscess (which drained a 
very small amount of pus and wound cultures were not sent) 
followed by a course of PO Keflex and doxycycline. The infection 
worsened over six days and she was sent to the ED. 

In the ___ ER, vitals were unremarkable (temp 98.4, HR 70, BP 
140/73, RR 16, SpO2 100% on RA), she was oriented and 
conversant, and WBC was normal at 7.4. Bedside ultrasound in the 
ED showed phlegmon with no drainable collection. Blood cultures 
x2 were collected, she was given vancomycin 1g and was admitted 
to medicine. 

REVIEW OF SYSTEMS
GEN: denies fevers/chills
CARDIAC: denies chest pain or palpitations
PULM: denies new dyspnea or cough
GI: denies n/v, denies change in bowel habits
GU: denies dysuria or change in appearance of urine
Full 14-system review of systems otherwise negative and 
non-contributory. 
 
Past Medical History:
CML (in remission for ___ years)
LBBB
Pre-diabetes
Pancreatic cyst
Colon polyp
 
Social History:
___
Family History:
Brother: ___ 
Father: ___ 
Mother: diabetes
___ Grandmother: breast cancer  
 
Physical Exam:
VITALS: vitals were reviewed; stable and afebrile
GEN: NAD
HEENT: EOMI, sclerae anicteric, MMM, OP clear 
NECK: No LAD, no JVD
CARDIAC: RRR, no M/R/G
PULM: normal effort, no accessory muscle use, LCAB
GI: soft, NT, ND, NABS
MSK: No visible joint effusions or deformities.
NEURO: AAOx3. No facial droop, moving all extremities.
PSYCH: Full range of affect
EXTREMITIES: WWP, no edema
DERM: Erythema of the L labium majorum extending over the medial 
and L lateral part of the mons pubis (Outlined with pen). 
Induration of a 2.5 cm region of skin roughly over the L pubic 
ramus.  
 
Pertinent Results:
___ 07:50AM BLOOD WBC-5.0 RBC-3.37* Hgb-10.9* Hct-33.8* 
MCV-100* MCH-32.3* MCHC-32.2 RDW-13.2 RDWSD-49.1* Plt ___
___ 07:25AM BLOOD WBC-6.0 RBC-3.43* Hgb-11.2 Hct-34.2 
MCV-100* MCH-32.7* MCHC-32.7 RDW-13.4 RDWSD-49.3* Plt ___
___ 04:30PM BLOOD WBC-7.5 RBC-3.57* Hgb-11.5 Hct-35.8 
MCV-100* MCH-32.2* MCHC-32.1 RDW-13.7 RDWSD-50.4* Plt ___
___ 07:50AM BLOOD Glucose-103* UreaN-14 Creat-0.8 Na-143 
K-4.4 Cl-106 HCO3-29 AnGap-12
___ 07:25AM BLOOD Glucose-112* UreaN-17 Creat-0.7 Na-142 
K-4.2 Cl-105 HCO3-30 AnGap-11

ultrasound:
IMPRESSION:  
  
Inflammation without fluid collection. 

MRSA swab nares: negative
 
Brief Hospital Course:
___ w/ CML (in remission on long-term Gleevac) admitted for L 
groin cellulitis  

#CELLULITIS
L groin cellulitis did not improve on six-day course of PO 
Keflex and doxycycline. By appearance and her description of its 
progression, would suspect Staph aureus is the causative 
bacterium.  She received IV vancomycin with improvement in exam. 
 Area still inflamed and somewhat fluctuant on ___ so repeat 
ultrasound was performed that showed inflammation without any 
descrite pocket of fluid or abscess.  She remained on IV 
vancomycin until exam sufficiently improved and then 
transitioned to PO Bactrim on ___ with continued improvement. 
She was discharged with Bactrim with plans to complete a 10 day 
total course of therapy (7 more days). She was instructed to 
call her PCP for ___ within 1 week. She was given ibuprofen 
for pain.   

#CML
In durable remission on Gleevac for over ___ years.Continued 
gleevac 400 mg BID

 
Medications on Admission:
1. IMatinib Mesylate 400 mg PO BID 
2. Multivitamins 1 TAB PO DAILY 
3. Calcium Carbonate 1250 mg PO DAILY 
4. Sertraline 100 mg PO DAILY 

 
Discharge Medications:
1.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*20 Tablet Refills:*0 
2.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) by 
mouth twice a day Disp #*13 Tablet Refills:*0 
3.  Calcium Carbonate 1250 mg PO DAILY  
4.  IMatinib Mesylate 400 mg PO BID  
5.  Multivitamins 1 TAB PO DAILY  
6.  Sertraline 100 mg PO DAILY  

1.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*20 Tablet Refills:*0 
2.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) by 
mouth twice a day Disp #*13 Tablet Refills:*0 
3.  Calcium Carbonate 1250 mg PO DAILY  
4.  IMatinib Mesylate 400 mg PO BID  
5.  Multivitamins 1 TAB PO DAILY  
6.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for an soft tissue/skin infection called 
cellulitis. For this, you were given antibiotics with 
improvement. You will need to continue your oral antibiotic for 
7 days. Please be sure to follow up with your primary care 
doctor for continued care. 
 
Followup Instructions:
___